US09023847B2
103. 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid pyrrolidin-3-ylamide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-1-pyrrolidin-2-ylmethyl)-amide using 3-{[2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester instead of (R)-2-({[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}methyl)pyrrolidine-1-carboxylic acid tert-butyl ester LCMS (ESI) 328 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.58 (1H, br. s.) 11.49 (1H, s) 8.89 (1H, d, J=6.93 Hz) 8.18 (1H, d, J=6.74 Hz) 7.67 (1H, d, J=5.86 Hz) 7.46 (1H, dd, J=3.32, 2.34 Hz) 7.42 (1H, d, J=5.86 Hz) 6.80 (1H, d, J=6.83 Hz) 6.76 (1H, dd, J=3.42, 1.56 Hz) 4.49 (1H, dt, J=6.66, 4.53 Hz) 3.33 (2H, dt, J=12.40, 6.30 Hz) 3.18 (2H, td, J=10.93, 6.44 Hz) 2.12 (1H, dd, J=13.42, 7.47 Hz) 1.84-2.00 (0H, m) 1.16-1.42 (1H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid ((R)-1-pyrrolidin-2-ylmethyl)-amide | N1[C@H](CCC1)CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H19N5OS
reactant | 3-{[2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C1=C(SC=C1)NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
product | 2-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-3-carboxylic acid pyrrolidin-3-ylamide | N1CC(CC1)NC(=O)C1=C(SC=C1)NC1=C2C(=NC=C1)NC=C2 | C16H17N5OS
